Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
hyperglycemia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The patient is a ___ year old male with a history of diabetes 
mellitus, with several recent admissions to the ___ for 
hyper/hypoglycemia, likely related largely to medication 
non-compliance.  He was sent to the emergency department last 
night after his blood sugar at his assisted living facility was 
measured at over 500.  He also has had multiple behavioral 
issues, reportedly being occasionally difficult or belligerent 
with staff, not taking care of himself, and concern for not 
taking medications appropriately, especially insulin.
 
Past Medical History:
1. Diabetes melitus  
2  Hypertension  
3. Status post exploratory laparotomy in ___ in ___, 
reportedly nothing found, question of pancreatic abscess.  
4.  Decreased hearing, reportedly was told he needs a hearing 
aid but did not get one.  

 
Social History:
___
Family History:
Cancer - unable to be specific  
 
Physical Exam:
Vitals: T: 96.7 BP:146/90 P:76 R:18 O2:97RA  
___: 207  

General: Alert, oriented, no acute distress, oriented name, 
hospital and month  
HEENT: Sclera anicteric, dryMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: non-tender,non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  

 
Pertinent Results:
___ 06:00PM   WBC-7.6 RBC-4.54* HGB-13.6* HCT-42.0 MCV-92 
MCH-29.9 MCHC-32.3 RDW-14.4
___ 06:00PM   NEUTS-67.7 ___ MONOS-5.0 EOS-2.5 
BASOS-0.5
___ 06:00PM   PLT COUNT-207
___ 06:00PM   GLUCOSE-472* UREA N-31* CREAT-1.9* SODIUM-134 
POTASSIUM-5.6* CHLORIDE-102 TOTAL CO2-21* ANION GAP-17
___ 06:44PM URINE  BLOOD-SM NITRITE-NEG PROTEIN-150 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
 
Brief Hospital Course:
Mr. ___ was evaluated in the emergency room, where he was 
found to be persistently hyperglycemic, with hyperkalemia on 
laboratory studies, and increased t wave inversions on his EKG 
as compared with a prior study.  While in the emergency 
department he was given 8 units of regular insulin, and was 
given kayexalate for his elevated potassium.  His initial 
troponin check was negative.

# Hyperglycemia - on arrival to the medical floor Mr. ___ 
blood glucose was measured at 207.  He was given 6 units of 
humalog at this point, and his blood glucose was checked every 2 
hours overnight, dipping as low as 70 before rising again to 
197.  Mr. ___ insisted on interview that he had taken his 
insulin as prescribed for the previous several days, but when we 
were able to speak with the staff at his assisted living 
facility, we learned that he had likely taken his Lantus dose 
late in the afternoon, shortly before coming to the ED.  This 
likely is the reason for his blood glucose dipping as low as 69 
overnight.

Also, we discussed his case with the medical team from his prior 
admission, and they explained that he had been observed for 
several days previously on his regimen of Lantus 10 mg Qam.  
This regimen appears to work well for him, and it seems very 
likely that his hyperglycemia was largely due to noncompliance.

# Rule out ACS - Mr. ___ was kept on telemetry overnight, 
and a repeat troponin was drawn in conjunction with a repeat 
EKG.  The troponin remained negative, and the EKG showed no new 
changes, with lessening of previously seen T wave inversions.  
At no time during his hospital stay did he complain of chest 
pain, shortness of breath, or any other symptoms of discomfort.

# Behavioral issues - This appears to a be a chronic 
deterioration over the past several months.  He was very 
pleasant and cooperative in the hospital, but he did describe an 
altercation with a member of the facility's staff, and we were 
told of other behavioral concerns as described above.  We have 
arranged outpatient followup with the cognitive neurology 
department.

# Claudication - On initial history and physical Mr. ___ 
described symptoms consistent with chronic claudication.  He has 
had no recent worsening of his symptoms, and he has good 
arterial pulses on exam.  This should be followed up in an 
outpatient setting.

# Kidney disease - Creatinine was 1.9 on admission - it is 
unclear what his true baseline is currently, but it has ranged 
between 1.4 and 2.1 on recent admissions.  Creatine on morning 
labs had decreased to 1.6, with good urine output.

# Hypertension - has had multiple medication changes recently, 
will continue only on nifedipine for now.  We have discontinued 
HCTZ due to his varying renal function.

# Hematuria - noted in the emergency department to have small 
amount of hematuria, but this resolved on repeat urinalysis.

Code status - confirmed full code
 
Medications on Admission:
1. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain/fever.  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. Cyanocobalamin 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Doxazosin 1 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
7. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
8. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
10. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. Sennosides 8.6 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
12. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily). Disp:*30 Capsule(s)* Refills:*0*  
13. Insulin Glargine 100 unit/mL Solution Sig: Ten (10) units 
Subcutaneous qAM. Disp:*1 bottle* Refills:*2*  
14. Nifedipine 60 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO DAILY (Daily). Disp:*30 Tablet 
Sustained Release(s)* Refills:*1*
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain/fever.  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. Cyanocobalamin 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Doxazosin 1 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
6. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
7. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
10. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q12H 
(every 12 hours).  
11. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. Nifedipine 30 mg Tablet Sustained Release Sig: Two (2) 
Tablet Sustained Release PO DAILY (Daily).  
13. Insulin Glargine 100 unit/mL Solution Sig: Ten (10) units 
Subcutaneous once a day.  
14. Insulin Lispro 100 unit/mL Solution Sig: Per Sliding scale  
Subcutaneous QACHS: Blood glucose levels:
101-150 - 2 units
151-200 - 4 units
201-250 - 6 units
251-300 - 8 units
301-350 - 10 units
351-400 - 12 units.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
1. Hyperglycemia
2. Hyperkalemia
3. Type 2 diabetes

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
1. You were admitted for hyperglycemia, or high blood sugar 
levels.  You were treated with insulin, and your blood sugar 
levels were stable. At rehab, your blood glucose levels will 
need to be monitored every 6 hours (with meals and at bedtime), 
and your insulin lantus and sliding scale doses will need to be 
adjusted by the doctor at rehab.  We determined that you did not 
have an infection or a heart attack.

2. Unless otherwise indicated, you should resume all of your 
home medications as taken prior to admission. It is very 
important that you take all of your medications as prescribed.

3. It is very important that you keep all of your doctor's 
appointments.

4. If you develop chest pain, shortness of breath, or other 
concerning symptoms, you should call your PCP or go to your 
local Emergency Department immediately.
 
Followup Instructions:
___